US07084158B2
1-[3-(3,5-Bistrifluoromethylphenyl)-2-propynyl]piperidine
A mixture of 1-(3,5-bistrifluoromethylphenyl)-3-bromoprop-1-yne (2.53 g), piperidine (5 ml) and anhydrous potassium carbonate (5 g) in dry acetone (50 ml) was heated at reflux with stirring for 18 h. Removal of the solvent under reduced pressure and distillation of the residue under reduced pressure gave 2.26 g of an oil of boiling point 95° C./0.025 mm Hg.

reactant | 1-(3,5-bistrifluoromethylphenyl)-3-bromoprop-1-yne | 2.53 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCBr)(F)F | C11H5BrF6
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-[3-(3,5-Bistrifluoromethylphenyl)-2-propynyl]piperidine | 2.26 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCN1CCCCC1)(F)F | C16H15F6N
